US04886339
4'-Dibutylamino-4-nitrostilbene (G5)
A mixture of 5.00 g (21 mmol) of 4-dibutylaminobenzaldehyde, 4.27 g (24 mmol) of 4-nitrophenylacetic acid, 1.80 g (21 mmol) of piperidine, and 50 mL of xylenes was heated with stirring at reflux of 20 hours with continuous removal of water using a Dean-Stark apparatus. The mixture turned dark red. Approximately half the xylenes was distilled, 20 mL of heptane was added, and the residue was cooled to -30° C. Red crystals separated which were collected and then recrystallized from toluene/heptane. Yield: 2.81 g (37%), mp 117-119 (lit2 182°-182.5° C.).

reactant | 4-dibutylaminobenzaldehyde | 21 mmol, 5.00 g | C(CCC)N(C1=CC=C(C=O)C=C1)CCCC | C15H23NO
reactant | 4-nitrophenylacetic acid | 24 mmol, 4.27 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | piperidine | 21 mmol, 1.80 g | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 4'-Dibutylamino-4-nitrostilbene | C(CCC)N(C1=CC=C(C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1)CCCC | C22H28N2O2
